US07138410B2
N-(4-Bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride
1.00 g (4.76 mmol) of 3-quinuclidinecarbonyl chloride hydrochloride is added at 0° C. to a solution of 900 mg (5.24 mmol) of 4-bromoaniline and 1.85 g (14.28 mmol) of N,N-diisopropylethylamine in about 10 ml of dry DMF. The mixture is stirred at room temperature overnight. Purification by preparative HPLC is followed by chromatography again on silica gel (mobile phase: dichloromethane/methanol/triethylamine 80:20:2). The product is dissolved in methanol and mixed with 1N HCl in methanol. Finally, the solvent is removed. 0.63 g (31% of theory) of the title compound is obtained. The raw material is employed directly in the next synthesis.

reactant | 3-quinuclidinecarbonyl chloride hydrochloride | 4.76 mmol, 1.00 g | Cl.N12CC(C(CC1)CC2)C(=O)Cl
reactant | 4-bromoaniline | 5.24 mmol, 900 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | N,N-diisopropylethylamine | 14.28 mmol, 1.85 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | about 10 ml | CN(C)C=O | C3H7NO
product | N-(4-Bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | Cl.BrC1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2 | InChI=1S/C14H17BrN2O.ClH/c15-11-1-3-12(4-2-11)16-14(18)13-9-17-7-5-10(13)6-8-17;/h1-4,10,13H,5-9H2,(H,16,18);1H
